US05298652
The reaction of 2-hydroxy-5-[(12-phenoxydodecyl)oxy]benzoic acid methyl ester with benzyl bromide as described in Example 102 gave 5-[(12-phenoxydodecyl)oxy]-2-(phenylmethoxy) benzoic acid methyl ester (58% yield, mp 46°-48° ).

reactant | 2-hydroxy-5-[(12-phenoxydodecyl)oxy]benzoic acid methyl ester | COC(C1=C(C=CC(=C1)OCCCCCCCCCCCCOC1=CC=CC=C1)O)=O | C26H36O5
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 5-[(12-phenoxydodecyl)oxy]-2-(phenylmethoxy) benzoic acid methyl ester | 58% yield | COC(C1=C(C=CC(=C1)OCCCCCCCCCCCCOC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C33H42O5
